US07612114B2
4-(3,5-Dimethoxyphenyl)butyric acid ethyl ester
To a solution of 3-(3,5-dimethoxyphenyl)propan-1-ol (24.3 g) in ethyl acetate (500 ml) were sequentially added triethylamine (16.3 g) and methanesulfonyl chloride (16.3 g) on an ice bath, and the solution was stirred for 25 minutes at room temperature. The solution was extracted with ethyl acetate, then sequentially washed with water and brine, dried over anhydrous magnesium sulfate, then the solvent was evaporated in vacuo. To a solution of the total amount of the resulting 3-(3,5-dimethoxyphenyl)propyl methanesulfonate (crude product) in N,N-dimethylformamide (150 ml) was added sodium cyanide (15.2 g), and the solution was stirred for 8.5 hours at 80° C. The solution was extracted with ethyl acetate, then sequentially washed with water and brine, dried over anhydrous magnesium sulfate, then the solvent was evaporated in vacuo. To a solution of the total amount of the resulting 4-(3,5-dimethoxyphenyl)butyronitrile (crude product) in ethylene glycol (100 ml) was added an aqueous solution of 5N sodium hydroxide (75 ml), and the solution was refluxed for 9.5 hours. The reaction solution was acidified with concentrated sulfuric acid, the solution was extracted with ethyl acetate, then sequentially washed with water and brine, dried over anhydrous magnesium sulfate, then the solvent was evaporated in vacuo. To a solution of the resulting residue in ethanol (400 ml) was added concentrated sulfuric acid (4 ml), and the solution was stirred for 1 hour and 20 minutes at 70° C. The reaction solution was concentrated in vacuo, extracted with ethyl acetate, then sequentially washed with water and brine, dried over anhydrous magnesium sulfate, and then the solvent was evaporated in vacuo. The residue was purified by silica gel column chromatography (hexane-ethyl acetate system) to provide the title compound (25.3 g).

reactant | 3-(3,5-dimethoxyphenyl)propan-1-ol | 24.3 g | COC=1C=C(C=C(C1)OC)CCCO | C11H16O3
reactant | triethylamine | 16.3 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 16.3 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | 4-(3,5-Dimethoxyphenyl)butyric acid ethyl ester | 25.3 g | C(C)OC(CCCC1=CC(=CC(=C1)OC)OC)=O | C14H20O4
